2161-08-13 09:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2161-8-12**] 04:00 PM
   - Transferred to MICU
   - Started on D5W with 2 amps bicarb @ 200cc/h; still without UOP but
   not desatting.
   - Heparin gtt restarted
   - Cont to be in aflutter with variable block but diltiazem gtt held as
   HR better controlled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-8-13**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 94 (67 - 115) bpm
   BP: 155/113(121) {103/45(58) - 155/113(121)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     19 mL
                                                                  1,132 mL
   PO:
             TF:
   IVF:
                                                                     19 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     35 mL
   Urine:
   35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     19 mL
                                                                  1,097 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General: Sleeping and difficult to arouse although opens eyes
   transiently to voice
   HEENT: Right eye reactive, left eyelid erythematous and pupil difficult
   to assess, appears to have had prior surgery involving suturing of
   distal edge of eyelids
   Lungs: Rhonchorous b/l with scattered rales, decreased BS at bases
   CV: Irregular, tachycardic, S1-S2+
   Abdomen: Soft, non-tender, bowel sounds present
   GU: +foley
   Ext: LUE bandaged. 2+ DP pulses, no LE edema.
   Labs / Radiology
   181 K/uL
   10.4 g/dL
   111 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.9 mEq/L
   33 mg/dL
   103 mEq/L
   134 mEq/L
   32.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2161-8-11**]  11:58 PM
                             [**2161-8-12**]  11:57 PM
                             [**2161-8-13**]  07:30 AM
   WBC
   10.2
   9.9
   Hct
   33.9
   32.5
   Plt
   204
   181
   Cr
   2.8
   TropT
   0.28
   Glucose
   111
   Other labs: PT / PTT / INR:14.1/>150.0/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7469**]/433/0.28, Lactic Acid:1.4 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: CT Head: Small chronic infarction in the right external
   capsule and
   putamen. Moderate chronic small vessel ischemic disease. While there is
   no
   evidence of an acute infarction, MRI with diffusion-weighted images
   would be
   more sensitive for an acute infarction, if clinically indicated.
   CXR: Vascular congestion has worsened to the edge of pulmonary edema.
   Small right
   pleural effusion and right basal atelectasis are new. Moderate
   cardiomegaly
   includes marked left atrial enlargement and probable mitral annulus
   calcification which predisposes the patient to mitral regurgitation. No
   pneumothorax or mediastinal widening.
   Microbiology: None
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RHABDOMYOLYSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: [**Age over 90 **] yo woman with h/o dementia, CAD, paroxysmal
   aflutter who was transferred to [**Hospital1 5**] for LUE thrombectomy and a
   flutter with RVR complicated by worsening renal failure,
   rhabdomyolysis, fluid overload and now s/p LUE fasciotomy.
    L brachial thrombus c/b compartment syndrome: S/p thromboembolectomy
   which was c/b compartment syndrome, likely reperfusion injury with no
   necrosis on intraop evaluation seen, now s/p fasciotomy.
   - F/u Plastics and Vascular recs
   - continue heparin gtt
   ARF: Baseline unknown but Cr 1.2 on admission likely represents mild
   ARF given age. Likely prerenal from hypoperfusion with possible
   progression to ATN, complicated by progressive rhabdomyolysis. Cr now
   increased to 2.8 and pt anuric.
   - Given lack of urine output and tenuous respiratory status will
   discontinue fluids
   - Hold duloxetine and gabapentin for now; renally dose all meds
   - Trend Cr and electrolytes
   - Foley in place to monitor urine output
   - Pt's family open to idea of hemodialysis if becomes necessary
   - F/u renal recs
   Rhabdomyolysis:  As above, CKS stabilizing in the range of 40k.  Little
   improvement with bicarbonate.
   - holding fluids for now
   Fluid overload: Pt with increasing O2 requirement in setting of
   aggressive fluid hydration and anuria. [**Month (only) 8**] also be exacerbated by
   aflutter with RVR although rate currently better controlled. No known
   h/o CHF.  CXR without significant worsening thus far.
   - as above, now anuric despite aggressive hydration with bicarbonate
   - will discontinue fluids
   - monitor oxygen saturations
   - okay to intubate
   - would likely favor trial of high dose lasix prior to intubation
   Atrial flutter: H/o a flutter in past, likely in setting of pain or
   acute illness. Earlier required dilt gtt for RVR but HR currently
   better controlled off gtt.
   - Monitor on tele, EKG in AM
   - Cont home metoprolol 50mg [**Hospital1 **], uptitrate prn
   - digoxin level elevated so will discontinue
   - Consider IV dilt if relapses in to RVR
   - Add on TSH
   - F/u cards recs
   - echocardiogram this morning
   CAD: H/o unspecified CAD per son. [**Name (NI) **] CK and trops difficult to
   interpret in setting of worsening renal failure but ACS less likely. Pt
   does not appear to be in pain currently.
   - Monitor on tele, EKG in AM
   - Cont ASA 325mg, beta blocker
   - Already on heparin gtt for thrombus
   - echocardiogram this morning
   Altered mental status: Pt with dementia at baseline. No acute findings
   on CT head. Yesterday thought to be somnolent in setting of sedation
   with some improvement after receving Narcan. Now also s/p sedation for
   OR and lethargic. [**Month (only) 8**] also have contribution from acute illness and
   underlying dementia.
   - No need for Narcan for now
   - Holding duloxetine
   - Reassess mental status in AM
   - Monitor lytes and renal function, f/u TSH
   ?Eye infection: Cont erythromycin ointment to left eye.
   FEN: No IVF, replete electrolytes, NPO for now but can start tube feeds
   in AM as NG tube in place.
   Prophylaxis: Heparin gtt, H2 blocker
   Access: PICC
   Code: DNR, ok to use pressors, ok to intubate.
   Communication: Patient. HCP 1 is daughter [**Name (NI) **] [**Name (NI) 7470**] ([**Telephone/Fax (1) 7471**]).
   HCP 2 is son [**Name (NI) **].
   Disposition: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2161-8-12**] 04:00 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care for now

2161-08-14 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2161-8-13**] 09:15 AM
   - Patient seen by nephrology team who recommended attempts at diuresis
   with lasix and diuril.  Urine output picked up slowly during the day.
   - Family meeting this afternoon with request to pursue dialysis if no
   improvement in urine output by tomorrow
   - Seen by vascular surgery who recommend continuing heparin drip and
   starting statin in AM if LFTs are within normal limits
   - Echocardiogram with mild calcific aortic stenosis. Normal global
   biventricular systolic function. Mild pulmonary hypertension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2161-8-13**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-8-14**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 86 (65 - 109) bpm
   BP: 166/54(77) {98/28(51) - 166/142(131)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,451 mL
                                                                    221 mL
   PO:
             TF:
                                                                     25 mL
                                                                    126 mL
   IVF:
                                                                  1,426 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    360 mL
   Urine:
                                                                    280 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,171 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General: Sleeping and difficult to arouse although opens eyes
   transiently to voice
   HEENT: Right eye reactive, left eyelid erythematous and pupil difficult
   to assess, appears to have had prior surgery involving suturing of
   distal edge of eyelids
   Lungs: Rhonchorous b/l with scattered rales, decreased BS at bases
   CV: Irregular, tachycardic, S1-S2+
   Abdomen: Soft, non-tender, bowel sounds present
   GU: +foley
   Ext: LUE bandaged. 2+ DP pulses, no LE edema.
   Labs / Radiology
   169 K/uL
   10.2 g/dL
   102 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   39 mg/dL
   98 mEq/L
   133 mEq/L
   32.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2161-8-11**]  11:58 PM
                             [**2161-8-12**]  11:57 PM
                             [**2161-8-13**]  07:30 AM
                             [**2161-8-13**]  04:11 PM
                             [**2161-8-14**]  04:32 AM
   WBC
   10.2
   9.9
   9.3
   Hct
   33.9
   32.5
   32.0
   Plt
   [**Telephone/Fax (3) 7499**]
   Cr
   2.8
   3.4
   3.9
   TropT
   0.28
   0.27
   Glucose
   111
   153
   102
   Other labs: PT / PTT / INR:12.9/72.9/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7500**]/252/0.27, Lactic Acid:1.4 mmol/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: Echocardiogram: The left atrium is elongated. Left ventricular
   wall thickness, cavity size, and global systolic function are normal
   (LVEF>55%). Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets (3) are
   mildly thickened. There is mild aortic valve stenosis (valve area
   1.2-1.9cm2). Mild (1+) aortic regurgitation is seen. The mitral valve
   leaflets are moderately thickened. Trivial mitral regurgitation is
   seen. [Due to acoustic shadowing, the severity of mitral regurgitation
   may be significantly UNDERestimated.] The tricuspid valve leaflets are
   mildly thickened. There is mild pulmonary artery systolic hypertension.
   Microbiology: None
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RHABDOMYOLYSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan: [**Age over 90 **] yo woman with h/o dementia, CAD, paroxysmal
   aflutter who was transferred to [**Hospital1 5**] for LUE thrombectomy and a
   flutter with RVR complicated by worsening renal failure,
   rhabdomyolysis, fluid overload and now s/p LUE fasciotomy.
    L brachial thrombus c/b compartment syndrome: S/p thromboembolectomy
   which was c/b compartment syndrome, likely reperfusion injury with no
   necrosis on intraop evaluation seen, now s/p fasciotomy.
   - F/u Plastics and Vascular recs
   - continue heparin gtt
   ARF: Baseline unknown but Cr 1.2 on admission likely represents mild
   ARF given age. Likely prerenal from hypoperfusion with possible
   progression to ATN, complicated by progressive rhabdomyolysis. Cr now
   increased to 2.8 and pt anuric.
   - Given lack of urine output and tenuous respiratory status will
   discontinue fluids
   - Hold duloxetine and gabapentin for now; renally dose all meds
   - Trend Cr and electrolytes
   - Foley in place to monitor urine output
   - Pt's family open to idea of hemodialysis if becomes necessary
   - F/u renal recs
   Rhabdomyolysis:  As above, CKS stabilizing in the range of 40k.  Little
   improvement with bicarbonate.
   - holding fluids for now
   Fluid overload: Pt with increasing O2 requirement in setting of
   aggressive fluid hydration and anuria. [**Month (only) 8**] also be exacerbated by
   aflutter with RVR although rate currently better controlled. No known
   h/o CHF.  CXR without significant worsening thus far.
   - as above, now anuric despite aggressive hydration with bicarbonate
   - will discontinue fluids
   - monitor oxygen saturations
   - okay to intubate
   - would likely favor trial of high dose lasix prior to intubation
   Atrial flutter: H/o a flutter in past, likely in setting of pain or
   acute illness. Earlier required dilt gtt for RVR but HR currently
   better controlled off gtt.
   - Monitor on tele, EKG in AM
   - Cont home metoprolol 50mg [**Hospital1 **], uptitrate prn
   - digoxin level elevated so will discontinue
   - Consider IV dilt if relapses in to RVR
   - Add on TSH
   - F/u cards recs
   - echocardiogram this morning
   CAD: H/o unspecified CAD per son. [**Name (NI) **] CK and trops difficult to
   interpret in setting of worsening renal failure but ACS less likely. Pt
   does not appear to be in pain currently.
   - Monitor on tele, EKG in AM
   - Cont ASA 325mg, beta blocker
   - Already on heparin gtt for thrombus
   - echocardiogram this morning
   Altered mental status: Pt with dementia at baseline. No acute findings
   on CT head. Yesterday thought to be somnolent in setting of sedation
   with some improvement after receving Narcan. Now also s/p sedation for
   OR and lethargic. [**Month (only) 8**] also have contribution from acute illness and
   underlying dementia.
   - No need for Narcan for now
   - Holding duloxetine
   - Reassess mental status in AM
   - Monitor lytes and renal function, f/u TSH
   ?Eye infection: Cont erythromycin ointment to left eye.
   FEN: No IVF, replete electrolytes, NPO for now but can start tube feeds
   in AM as NG tube in place.
   Prophylaxis: Heparin gtt, H2 blocker
   Access: PICC
   Code: DNR, ok to use pressors, ok to intubate.
   Communication: Patient. HCP 1 is daughter [**Name (NI) **] [**Name (NI) 7470**] ([**Telephone/Fax (1) 7471**]).
   HCP 2 is son [**Name (NI) **].
   Disposition: ICU
   ICU Care
   Nutrition: NPO, tube feeds, NGT in place
   Glycemic Control:
   Lines:
   PICC Line - [**2161-8-12**] 04:00 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care for now
   Code status: DNR (do not resuscitate)
   Disposition: ICU care for now

2161-08-14 09:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Diuresed overnight with lasix/diuril
   - TTE with mild calcified AS, mild pHTN, nl systolic function
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2161-8-13**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-8-14**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 69 (65 - 109) bpm
   BP: 151/42(68) {98/28(51) - 166/142(131)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,451 mL
                                                                    356 mL
   PO:
             TF:
                                                                     25 mL
                                                                    207 mL
   IVF:
                                                                  1,426 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    740 mL
   Urine:
                                                                    280 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,171 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   169 K/uL
   96 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   97 mEq/L
   133 mEq/L
   32.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2161-8-11**]  11:58 PM
                             [**2161-8-12**]  11:57 PM
                             [**2161-8-13**]  07:30 AM
                             [**2161-8-13**]  04:11 PM
                             [**2161-8-14**]  04:32 AM
   WBC
   10.2
   9.9
   9.3
   Hct
   33.9
   32.5
   32.0
   Plt
   [**Telephone/Fax (3) 7499**]
   Cr
   2.8
   3.4
   3.9
   4.4
   TropT
   0.28
   0.27
   Glucose
   111
   153
   102
   96
   Other labs: PT / PTT / INR:12.9/72.9/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7503**]/89/0.27, Lactic Acid:1.4 mmol/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]y/o woman with h/o dementia, CAD, paroxysmal aflutter who was
   transferred to [**Hospital1 5**] for LUE thrombectomy and a flutter with RVR
   complicated by worsening renal failure, rhabdomyolysis, fluid overload
   and now s/p LUE fasciotomy.
   ARF: Pt with ATN from hypoperfusion and rhabdomyolysis. Cr still [**Hospital1 5344**]
   but having UOP to diuretics.
   - Goal UOP 100 cc/h; will resume fluids and cont diuresis with diuril
   and lasix
   - Hold duloxetine, gabapentin, and digoxin for now; renally dose all
   meds
   - Trend Cr and electrolytes
   - Foley in place to monitor urine output
   - Pt's family agreeable to hemodialysis if becomes necessary
   - F/u renal recs
   Rhabdomyolysis: CK now downtrending.
   - Restart fluids with diuresis
   Fluid overload: Stable O2 requirement. Now responding to diuretics and
   rate controlled. TTE without systolic dysfunction
   - Diuresis with IV hydration
   - monitor oxygen saturations, okay to intubate\
   L brachial thrombus c/b compartment syndrome: S/p thromboembolectomy
   which was c/b compartment syndrome, likely reperfusion injury with no
   necrosis on intraop evaluation seen, now s/p fasciotomy. Thrombus not
   reported on TTE read.
   - F/u Plastics and Vascular recs
   - continue heparin gtt in setting of aflutter
   Atrial flutter: H/o a flutter in past, likely in setting of pain or
   acute illness. Earlier required dilt gtt for RVR but HR currently
   better controlled off gtt.
   - Monitor on tele, EKG in AM
   - Cont home metoprolol 50mg [**Hospital1 **], uptitrate prn
   - digoxin level elevated so discontinued
   - TSH nl
   - Consider IV dilt if relapses in to RVR
   - F/u cards recs
   CAD: H/o unspecified CAD per son. [**Name (NI) **] CK and trops difficult to
   interpret in setting of worsening renal failure but ACS less likely, no
   WMA or thrombus reported on limited TTE. Pt does not appear to be in
   pain currently.
   - Monitor on tele, EKG in AM
   - Cont ASA 325mg, beta blocker
   - Add statin if LFTs nl
   - Already on heparin gtt for thrombus
   Altered mental status: Pt with dementia at baseline. No acute findings
   on CT head. Yesterday thought to be somnolent in setting of sedation
   with some improvement after receving Narcan. Now also s/p sedation for
   OR and lethargic. [**Month (only) 8**] also have contribution from acute illness and
   underlying dementia.
   - TSH nl
   - No need for Narcan for now
   - Holding duloxetine
   - Reassess mental status in AM
   - Monitor lytes and renal function
   ?Eye infection: Cont erythromycin ointment to left eye.
   Thrombocytopenia:
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-8-13**] 09:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-8-12**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill